US08053458B2
5,5′-Dimethyl-2,2′-diphenyl-2H,2′H-[3,4′]bipyrazolyl-3′-ol
Prepare the title compound from 1-[1-phenyl-3-methyl-5-oxo-4,5-dihydro-1H-pyrazol-4-yl]-butane-1,3-dione and phenyl hydrazine according to the procedure of Example 28.

reactant | 1-[1-phenyl-3-methyl-5-oxo-4,5-dihydro-1H-pyrazol-4-yl]-butane-1,3-dione | C1(=CC=CC=C1)N1N=C(C(C1=O)C(CC(C)=O)=O)C | C14H14N2O3
reactant | phenyl hydrazine | C1(=CC=CC=C1)NN | C6H8N2
product | 5,5′-Dimethyl-2,2′-diphenyl-2H,2′H-[3,4′]bipyrazolyl-3′-ol | CC=1C=C(N(N1)C1=CC=CC=C1)C1=C(N(N=C1C)C1=CC=CC=C1)O | C20H18N4O
